US07375099B2
b) N-(3,5-Dichloro-benzyl)-2-methyl-N′-(5-methyl-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl)-malonamide
The title compound, MS: m/e=496.2 (M+H+), was prepared in analogy to example 16 from 7-amino-5-methyl-5H,7H-dibenzo[b,d]azepin-6-one and 2-methyl-N-(3,5-dichloro-benzyl)-malonamic acid.

reactant | 7-amino-5-methyl-5H,7H-dibenzo[b,d]azepin-6-one | NC1C2=C(C3=C(N(C1=O)C)C=CC=C3)C=CC=C2 | C15H14N2O
reactant | 2-methyl-N-(3,5-dichloro-benzyl)-malonamic acid | CC(C(=O)O)C(=O)NCC1=CC(=CC(=C1)Cl)Cl | C11H11Cl2NO3
product | N-(3,5-Dichloro-benzyl)-2-methyl-N′-(5-methyl-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl)-malonamide | ClC=1C=C(CNC(C(C(=O)NC2C3=C(C4=C(N(C2=O)C)C=CC=C4)C=CC=C3)C)=O)C=C(C1)Cl | C26H23Cl2N3O3
